US04829067
A mixture of 73.2 g of 5-chloro-3-formyl-2-hydroxybenzoic acid, 350 ml of ethylene glycol and 129 ml of trimethylchlorosilane is stirred at room temperature for 2 hours. The reaction mixture is poured into a mixture of an aqueous saturated sodium bicarbonate solution and trimethylamine, and the mixture is extracted with ethyl acetate. The extract is washed with water, dried and evaporated to remove solvent to give 86 g of methyl 5-chloro-3-(1,3-dioxolan-2-yl)-2-hydroxybenzoate as yellow powder.

reactant | 5-chloro-3-formyl-2-hydroxybenzoic acid | 73.2 g | ClC=1C=C(C(=C(C(=O)O)C1)O)C=O | C8H5ClO4
reactant | trimethylchlorosilane | 129 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | trimethylamine | CN(C)C | C3H9N
reactant | ethylene glycol | 350 ml | C(CO)O | C2H6O2
product | methyl 5-chloro-3-(1,3-dioxolan-2-yl)-2-hydroxybenzoate | 86 g | ClC=1C=C(C(=C(C(=O)OC)C1)O)C1OCCO1 | C11H11ClO5
